US07585881B2
3-Cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazole-4-carbaldehyde
N-cyclopropyl-4-methoxy-benzamidine (0.90 g, 4.75 mmol), 2-bromo-3-isopropoxy-propenal (1.37 g, 7.12 mmol) and K2CO3 (0.98 g, 7.12 mmol) were mixed with chloroform (10 ml) and water (1.2 ml), followed by stirring at r.t. for 24 h. After drying of the reaction mixture (Na2SO4), filtration and concentration of the filterate in-vacuo, the crude residue was purified via flash chromatography (40% EA in hex.) to isolate the title compound (973 mg, 85%). 1H-NMR: 9.83 (s, 1H), 7.82 (m, 3H), 7.02 (d, 2H), 3.89 (s, 3H), 3.58 (m, 1H), 1.13 (m, 2H), 0.64 (m, 2H).

reactant | N-cyclopropyl-4-methoxy-benzamidine | 4.75 mmol, 0.90 g | C1(CC1)NC(C1=CC=C(C=C1)OC)=N | C11H14N2O
reactant | 2-bromo-3-isopropoxy-propenal | 7.12 mmol, 1.37 g | BrC(C=O)=COC(C)C | C6H9BrO2
reactant | K2CO3 | 7.12 mmol, 0.98 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1.2 ml | O | H2O
product | 3-Cyclopropyl-2-(4-methoxy-phenyl)-3H-imidazole-4-carbaldehyde | 973 mg, 85% | C1(CC1)N1C(=NC=C1C=O)C1=CC=C(C=C1)OC | C14H14N2O2
